US04207320
3,10-Di-(1-pyrrolidinyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide.
A mixture of 4.41 g. of 3,10-difluoroimidazo[1,2-a:3,4-a']diquinolin-15-ium iodide, 9.0 ml. of pyrrolidine and 130 ml. of N-methyl-2-pyrrolidinone is stirred and heated at 130°-160° C. for 4.5 hours, then cooled. The resulting precipitate is collected, washed with methanol and stirred with 100 ml. of 2% aqueous triethylamine hydroiodide for 1 hour. The resulting precipitate of 3,10-di-(1-pyrrolidinyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium iodide is collected by filtration, washed with water and dried; m.p. 345° C. (dec.), after crystallization from dimethylformamide/-2-propanol.

reactant | 3,10-difluoroimidazo[1,2-a:3,4-a']diquinolin-15-ium iodide | [I-].FC1=CC=2C=CC3=[N+](C2C=C1)C=C1N3C=3C=CC(=CC3C=C1)F
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | N-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | 3,10-Di-(1-pyrrolidinyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide | [I-].N1(CCCC1)C1=CC=2C=CC3=[N+](C2C=C1)C=C1N3C=3C=CC(=CC3C=C1)N1CCCC1 | InChI=1S/C27H27N4.HI/c1-2-14-28(13-1)22-8-10-25-20(17-22)6-12-27-30(25)19-24-7-5-21-18-23(29-15-3-4-16-29)9-11-26(21)31(24)27;/h5-12,17-19H,1-4,13-16H2;1H/q+1;/p-1
